US04997840
A solution of N-methylaniline (5.43 ml) in toluene (60 ml) was added dropwise over 20 minutes to a stirred solution of boron trichloride (1M, 50 ml) in hexane at 0 to 5° under nitrogen. Chloroacetonitrile (3.8 ml) and then aluminium trichloride (7.34 g) were added and the mixture was stirred and heated under reflux overnight. The mixture was cooled to 20° and hydrochloric acid (2M, 100 ml) added. The mixture was heated at 100° for 30 minutes, then cooled to 20° and adjusted to pH 3 to 4 with aqueous sodium hydroxide (5M, 50 ml). The mixture was extracted with dichloromethane (2×400 ml) and the combined extracts were dried over magnesium sulphate. The solvent was removed by evaporation under reduced pressure and the residue purified by flash chromatography on a silica gel column eluted with dichloromethane to give 2-chloro-2'-(methylamino)acetophenone, m.p. 65°-68°.

reactant | N-methylaniline | 5.43 ml | CNC1=CC=CC=C1 | C7H9N
reactant | boron trichloride | 1M, 50 ml | B(Cl)(Cl)Cl | BCl3
reactant | Chloroacetonitrile | 3.8 ml | ClCC#N | C2H2ClN
reactant | aluminium trichloride | 7.34 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | hydrochloric acid | 2M, 100 ml | Cl | ClH
reactant | sodium hydroxide | 5M, 50 ml | [OH-].[Na+]
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 2-chloro-2'-(methylamino)acetophenone | ClCC(=O)C1=C(C=CC=C1)NC | C9H10ClNO
